US09085575B2
A mixture of 2.1 g (7.49 mmol) of 3-(4-methoxybenzoyl)-2H-chromen-2-one with 728 mg (7.49 mmol) of 3-amino-5-methyl-pyrazole in 15 ml of acetic acid is heated at 110° C. for 10 minutes. 2.3 g (30 mmol) of ammonium acetate is then added and then the mixture is carried at 150° C. for 3 h. The solution is placed at room temperature and then 30 ml of ethyl ether and 5 ml of methanol are added. The white solid formed is filtered and then rinsed with diethyl ether to yield 810 mg of 5-(4-methoxyphenyl)-1-methylchromeno[4,3-d]pyrazolo[3,4-b]pyridin-6(3H)-one.

reactant | 3-(4-methoxybenzoyl)-2H-chromen-2-one | 7.49 mmol, 2.1 g | COC1=CC=C(C(=O)C=2C(OC3=CC=CC=C3C2)=O)C=C1 | C17H12O4
reactant | 3-amino-5-methyl-pyrazole | 7.49 mmol, 728 mg | NC1=NNC(=C1)C | C4H7N3
reactant | ammonium acetate | 30 mmol, 2.3 g | C(C)(=O)[O-].[NH4+]
reactant | ethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 5 ml | CO | CH4O
product | 5-(4-methoxyphenyl)-1-methylchromeno[4,3-d]pyrazolo[3,4-b]pyridin-6(3H)-one | 810 mg | COC1=CC=C(C=C1)C1=C2C(=C3C(=N1)NN=C3C)C=3C=CC=CC3OC2=O | C21H15N3O3
